US04540692
A mixture of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (0.65 g) and 2-amino-5-hydroxy-2,4,6-cycloheptatrien-1-one (0.40 g) in xylene (12 ml) was refluxed for 48 hours. The reaction mixture was cooled to room temperature. The crystals were collected by filtration and washed successively with methanol, water and methanol to give 4-hydroxy-N-(5-hydroxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.4 g).

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 0.65 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 2-amino-5-hydroxy-2,4,6-cycloheptatrien-1-one | 0.40 g | NC=1C(C=CC(=CC1)O)=O | C7H7NO2
solvent | xylene | 12 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-N-(5-hydroxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.4 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2C(C=CC(=CC2)O)=O | C17H14N2O6S
